US07888364B2
A mixture of 500 mg of 2-chloro-4-florobenzonitrile, 821 mg of 2-pyrrolidinone and 3 g of cesium carbonate in 5 mL of DMF was heated to 100° C. in a sealed microwave reactor for 15 min. The reaction mixture was diluted with ethyl acetate, washed with H2O, dried (MgSO4) and evaporated. Purified by silica gel chromatography (20-80% ethyl acetate/hexane) to afford 2-chloro-4-(2-oxopyrrolidin-1-yl)benzonitrile. 890 mg of 2-chloro-4-(2-oxopyrrolidin-1-yl)benzonitrile was reacted via Procedure T to give 2-chloro-4-(2-oxopyrrolidin-1-yl)benzoic acid. 80 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 2-chloro-4-(2-oxopyrrolidin-1-yl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-oxopyrrolidin-1-yl)benzamide. MS (Q1) 426.2 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 80 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 2-chloro-4-(2-oxopyrrolidin-1-yl)benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)N1C(CCC1)=O | C11H10ClNO3
product | 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-oxopyrrolidin-1-yl)benzamide | ClC1=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC(=C1)N1C(CCC1)=O | C22H17Cl2N3O2
